US07220856B2
Preparation of 7-Chloro-4-[4-(3-methylphenylaminocarbonyl)piperazin-1-yl]quinoline
7-Chloro-4-(piperazin-1-yl)quinoline (62 mg, 0.25 mmol) and m-tolyl isocyanate (32 μL, 0.25 mmol) in CH2Cl2 (5 mL) are reacted according to method C yielding the title product as colorless solid.

reactant | 7-Chloro-4-(piperazin-1-yl)quinoline | 0.25 mmol, 62 mg | ClC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14ClN3
reactant | m-tolyl isocyanate | 0.25 mmol, 32 μL | C1(=CC(=CC=C1)N=C=O)C | C8H7NO
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 7-Chloro-4-[4-(3-methylphenylaminocarbonyl)piperazin-1-yl]quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1=CC(=CC=C1)C | C21H21ClN4O
